US04519937
Electrochemically Doping Quinoline Polymers
A 5-inch platinum wire was coated with a thin film of the polymer of Example 1, by dipping the wire into a 5% solution of the polymer in a m-cresol/P2O5 mixture. The film-coated wire was neutralized by dipping into a 10% triethylamine--90% ethanol solution and dried in a vacuum oven at 60° C.

reactant | m-cresol P2O5 | C1=C(C=CC=C1O)C.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | platinum | [Pt] | Pt
product | Quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
